US08895588B2
1-{1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazol-3-yl}-N-methylmethanamine hydrochloride
tert-Butyl({1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazol-3-yl}methyl)methylcarbamate (302 mg) was dissolved in ethyl acetate (2 mL) and 2-propanol (1 mL), and 4 mol/L hydrogen chloride-ethyl acetate solution (3 mL) was added. After stirring at room temperature for 2 hr, the reaction mixture was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the title compound as colorless crystals (yield 216 mg, yield 83%). melting point 202-205° C.

reactant | tert-Butyl({1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazol-3-yl}methyl)methylcarbamate | 302 mg | C(C)(C)(C)OC(N(C)CC1=NN(C(=C1)S(=O)(=O)C1=CC(=CC=C1)C)C=1C(=NC=CC1)F)=O | C22H25FN4O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 3 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 1 mL | CC(C)O | C3H8O
product | 1-{1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazol-3-yl}-N-methylmethanamine hydrochloride | yield 216 mg, yield 83% | Cl.FC1=NC=CC=C1N1N=C(C=C1S(=O)(=O)C1=CC(=CC=C1)C)CNC | InChI=1S/C17H17FN4O2S.ClH/c1-12-5-3-6-14(9-12)25(23,24)16-10-13(11-19-2)21-22(16)15-7-4-8-20-17(15)18;/h3-10,19H,11H2,1-2H3;1H
